US07297816B2
(R)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid
2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoic acid was-coupled to (R)-2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride as in EXAMPLE 1, Part C. The resulting methyl ester was hydrolyzed as in EXAMPLE 2, Part E, to afford the title compound. HPLC: RT=10.97 min. MS (ESI−): mass-calcd. for C22H15Cl3N4O5S2, 585.87; m/z found, 583/585 [M−H]−. 1H NMR (500 MHz, CDCl3): 11.36 (s, 1H), 8.36 (dd, J=7.0, 0.8, 1H), 8.21 (dd, J=8.8, 0.6, 1H), 7.74-7.70 (m, 2H), 7.34 (d, J=8.2, 1H), 7.21 (d, J=1.9, 1H), 7.15 (d, J=8.4, 1H), 6.97 (dd, J=8.2, 2.0, 1H), 6.93 (dd, J=8.4, 2.0, 1H), 6.44 (d, J=7.0, 1H), 4.98 (q, J=5.7, 1H), 3.32-3.15 (m, 2H).

reactant | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
reactant | (R)-2-amino-3-(3,4-dichloro-phenyl)-propionic acid methyl ester hydrochloride | Cl.COC([C@@H](CC1=CC(=C(C=C1)Cl)Cl)N)=O
product | (R)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3,4-dichloro-phenyl)-propionic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)N[C@@H](C(=O)O)CC1=CC(=C(C=C1)Cl)Cl)C=CC(=C2)Cl | C22H15Cl3N4O5S2
